US07622583B2
2-Bromo-5-chloro-pyridin-3-ylamine
2-Bromo-5-chloro-3-nitro-pyridine (11.87 g, 50 mmol) was dissolved in 100 mL ether. Tin(II) chloride dihydrate (56.4 g, 0.5 mol) was dissolved in 100 mL of concentrated hydrochloric acid and added drop wise over 15 minutes to the stirring ethereal solution of the nitro compound. The exothermic reaction brought the ether to boiling and it was allowed to evaporate off. After the addition was complete the reaction mixture was placed on a 50° C. oil bath and stirred for 30 minutes to boil of the remaining ether. The flask was then cooled on in an ice bath. The precipitate formed was collected and by filtration and dissolved in 100 mL of water. The pH was adjusted to 9-10 by the addition of concentrated ammonium hydroxide solution and the product was extracted with ethyl acetate (2×100 mL). The organic layer was washed with diluted ammonium hydroxide, water and brine and dried over Na2SO4 and the solvent was evaporated to afford 7.4 g of tan crystalline solid. MS m/z: 208.9 (M+H).

reactant | 2-Bromo-5-chloro-3-nitro-pyridine | 50 mmol, 11.87 g | BrC1=NC=C(C=C1[N+](=O)[O-])Cl | C5H2BrClN2O2
reactant | Tin(II) chloride dihydrate | 0.5 mol, 56.4 g | O.O.[Sn](Cl)Cl
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | hydrochloric acid | 100 mL | Cl | ClH
product | 2-Bromo-5-chloro-pyridin-3-ylamine | 7.4 g | BrC1=NC=C(C=C1N)Cl | C5H4BrClN2
